US04048177
3,4-Dihydro-3,3-dimethyl-2-dimethylamino-4-phenylquinolin-4-ol
2-Chloro-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol (1.0g., 0.0035 mole) was dissolved in a mixture of a 33% w/v solution of dimethylamine in ethanol (15 ml.) and pyridine (0.6 ml. 0.0075 mole). The solution was stirred for 24 hours, then partially evaporated and allowed to crystallise to give the title compound (0.78g., m.p. 170° - 173° C) [Found: C, 77.4; H, 7.75; N, 9.5% C19H22N2O requires: C, 77.5; H, 7.5; N, 9.5%].

reactant | 2-Chloro-3,4-dihydro-3,3-dimethyl-4-phenylquinolin-4-ol | 0.0035 mole, 1.0g | ClC1=NC2=CC=CC=C2C(C1(C)C)(O)C1=CC=CC=C1 | C17H16ClNO
reactant | pyridine | 0.0075 mole, 0.6 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylamine | CNC | C2H7N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3,4-Dihydro-3,3-dimethyl-2-dimethylamino-4-phenylquinolin-4-ol | 0.78g | CC1(C(=NC2=CC=CC=C2C1(O)C1=CC=CC=C1)N(C)C)C | C19H22N2O
